US03989707
A mixture of 7.85 parts of 1-chloro-4-(4-fluorophenyl)-4-phenylbutane, 6.3 parts of 5-chloro-1-(4-piperidyl)-2-benzimidazolinone, 6.35 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 48 hours with water-separator. The reaction mixture is cooled to room temperature and water is added. The organic layer is separated, dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone, yielding 5-chloro-1-{1-[4-(4-fluorophenyl)-4-phenyl-butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 182.9° C.

reactant | 1-chloro-4-(4-fluorophenyl)-4-phenylbutane | ClCCCC(C1=CC=CC=C1)C1=CC=C(C=C1)F | C16H16ClF
reactant | 5-chloro-1-(4-piperidyl)-2-benzimidazolinone | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 5-chloro-1-{1-[4-(4-fluorophenyl)-4-phenyl-butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCC(C2=CC=CC=C2)C2=CC=C(C=C2)F)C=C1 | C28H29ClFN3O
